US03985885
1. 5-Nitro-2-(3-pyridinyl)benzothiazole
2-Amino-4-nitrobenzenethiol,17 g, 0.10 mole, and nicotinic acid, 18.7 g, 0.15 mole, are heated 2 hours at reflux in 250 cc of CHCl3 containing 100 g of PPE. The solution is concentrated in vacuo, and the residue slurried in H2O. The pH is adjusted to 11 with 50% NaOH solution. The precipitate is filtered, washed with H2O and dried in vacuo to yield 11.2 g of tan solid m.p. 196°-198°, 44% of theory.

reactant | 2-Amino-4-nitrobenzenethiol | NC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H6N2O2S
reactant | nicotinic acid | C(C1=CN=CC=C1)(=O)O | C6H5NO2
solvent | CHCl3 | 250 cc, 100 g | C(Cl)(Cl)Cl | CHCl3
product | 5-Nitro-2-(3-pyridinyl)benzothiazole | 11.2 g, 44% | [N+](=O)([O-])C=1C=CC2=C(N=C(S2)C=2C=NC=CC2)C1 | C12H7N3O2S
